US05135937
1.83 g of 4-[1-(imidazolyl)methyl]benzonitrile is dissolved in 50 ml of tetrahydrofuran and combined at -50° with 7.3 ml of 1.5-molar solution of lithium diisopropylamide in tetrahydrofuran; the mixture is stirred for 0.5 hour, further stirred with 1.05 g of cyclohexanone for 1 hour at -60°, and heated to 25°. Then water is added, the mixture is diluted with ethyl acetate, washed neutral with water, dried over sodium sulfate, and concentrated to dryness under vacuum, yielding 2.7 g of crude 4-[1-hydroxycyclohex-1-yl-1-(imidazolyl)methyl]benzonitrile.

reactant | 4-[1-(imidazolyl)methyl]benzonitrile | 1.83 g | N1C(=NC=C1)CC1=CC=C(C#N)C=C1 | C11H9N3
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | cyclohexanone | 1.05 g | C1(CCCCC1)=O | C6H10O
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[1-hydroxycyclohex-1-yl-1-(imidazolyl)methyl]benzonitrile | 2.7 g | OC1(CCCCC1)C(C=1NC=CN1)C1=CC=C(C#N)C=C1 | C17H19N3O
